US07202245B2
8-Fluoro-4-[4-(5-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one
A solution of 40 mg of 8-fluoro-4-piperazin-1-yl-[1,2,4]triazolo[4,3-a]quinoxalin-1-one, 48 mg of 2-chloro-5-trifluoromethylpyridine, and 47 mg of sodium carbonate in n-butanol (1 mL) was heated to reflux for 24 hrs. The reaction mixture was cooled to room temperature, filtered through a plug of diatomaceous earth, and evaporated to dryness. The residue was separated by silica gel chromatography to provide a white solid. MS (M+H)+=434.0.

reactant | 8-fluoro-4-piperazin-1-yl-[1,2,4]triazolo[4,3-a]quinoxalin-1-one | 40 mg | FC1=CC=C2N=C(C=3N(C2=C1)C(NN3)=O)N3CCNCC3 | C13H13FN6O
reactant | 2-chloro-5-trifluoromethylpyridine | 48 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | sodium carbonate | 47 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | n-butanol | 1 mL | C(CCC)O | C4H10O
product | 8-Fluoro-4-[4-(5-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one | FC1=CC=C2N=C(C=3N(C2=C1)C(NN3)=O)N3CCN(CC3)C3=NC=C(C=C3)C(F)(F)F | C19H15F4N7O
